US04689338
A mixture of 5.6 g (0.016 mole) of 4-chloro-1-isobutyl-2-phenyl-1H-imidazo[4,5-c]quinoline and 30 ml of a 20% mixture of ammonia in methanol was placed in a metal bomb and heated at 145°-150° C. for about 6 hours. After cooling, the solid was separated by filtration, washed with methanol and dried to provide 3.8 g of crude product. Recrystallization of the solid from ethanol provided 2.4 g of colorless 1-isobutyl-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine hydrate, melting point 194°-205° C. Analysis: Calculated for C20H20N4.1/2H2O: % C, 73.8; % H, 6.5: % N, 17.2. Found: % C, 73.6; % H, 6.2: % N, 17.0

reactant | 4-chloro-1-isobutyl-2-phenyl-1H-imidazo[4,5-c]quinoline | 0.016 mole, 5.6 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)C)C2=CC=CC=C2 | C20H18ClN3
reactant | ammonia | N | H3N
reactant | methanol | CO | CH4O
product | 1-isobutyl-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine hydrate | 2.4 g | O.C(C(C)C)N1C(=NC=2C(=NC=3C=CC=CC3C21)N)C2=CC=CC=C2 | InChI=1S/C20H20N4.H2O/c1-13(2)12-24-18-15-10-6-7-11-16(15)22-19(21)17(18)23-20(24)14-8-4-3-5-9-14;/h3-11,13H,12H2,1-2H3,(H2,21,22);1H2
